US08193356B2
To a suspension of 4-hydroxy-1-(3-trifluoromethoxyphenyl)-3-(4-trifluoromethoxyphenylacetyl)-1,8-naphthyridin-2(1H)-one (524 mg, 1.0 mmol) produced in Synthesis Example 25 in DMF (5 mL) was added hydrazine monohydrate (purity of 80%, 194 μL), and the mixture was stirred at 100 to 110° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, recrystallized from ethanol, and dried to give 3-(4-trifluoromethoxybenzyl)-5-(3-trifluoromethoxyphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one (301 mg, yield 58%).

reactant | 4-hydroxy-1-(3-trifluoromethoxyphenyl)-3-(4-trifluoromethoxyphenylacetyl)-1,8-naphthyridin-2(1H)-one | 1.0 mmol, 524 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)=O)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H14F6N2O5
reactant | hydrazine monohydrate | 194 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(4-trifluoromethoxybenzyl)-5-(3-trifluoromethoxyphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | 301 mg, yield 58% | FC(OC1=CC=C(CC2=NNC3=C2C(N(C=2N=CC=CC32)C3=CC(=CC=C3)OC(F)(F)F)=O)C=C1)(F)F | C24H14F6N4O3
